US08420631B2
1-But-3-ynyl-imidazolidin-2-one:
To a solution of 1-but-3-ynyl-3-(2-chloro-ethyl)-urea (5 g, 28.7 mmol) in THF (100 mL) add tetrabutylammonium bromide (1.82 g, 5.65 mmol) and potassium hydroxide (2.01 g, 35.9 mmol). Heat the resulting suspension at 75° C. for 72 h and allow to cool to room temperature. Dilute the mixture with EtOAc (200 mL), wash with water (2×100 mL) and 1N aqueous HCl (100 mL). Dry the organic phase over MgSO4, filter and concentrate in vacuo to obtain the title compound as a white powder (816 mg, 21%).

reactant | 1-but-3-ynyl-3-(2-chloro-ethyl)-urea | 28.7 mmol, 5 g | C(CC#C)NC(=O)NCCCl | C7H11ClN2O
reactant | potassium hydroxide | 35.9 mmol, 2.01 g | [OH-].[K+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium bromide | 5.65 mmol, 1.82 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 1-But-3-ynyl-imidazolidin-2-one | 816 mg, 21% | C(CC#C)N1C(NCC1)=O | C7H10N2O
